US03998966
A mixture of 23 g. of 6-hydroxymethyl-2-naphthyl-α-methylacetic acid, 230 g. of manganese dioxide, and 2 l. of chloroform are stirred for 12 hours; the mixture is filtered and evaporated to give 6-formyl-2-naphthyl-α-methylacetic acid.

reactant | 6-hydroxymethyl-2-naphthyl-α-methylacetic acid | OCC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-formyl-2-naphthyl-α-methylacetic acid | C(=O)C=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H12O3
